US08071600B2
1-benzo[b]thiophen-4-yl-4-[3-(4-bromo-2-methoxy-6-methylphenoxy)propyl]piperazine hydrochloride (0.5 g, 0.98 mmol), 1-acetyl piperazine (0.15 g, 1.2 mmol), palladium acetate (11 mg, 0.048 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphtyl (BINAP)(63 mg, 0.098 mmol) and sodium t-butoxide (0.23 g, 2.3 mmol) were added to toluene (10 ml) and the mixture was stirred under an argon atmosphere at 90° C. for 22 hours. The reaction mixture was cooled to room temperature and filtrated by cerite. The filter cake was washed with ethyl acetate. The filtrate and wash liquid were combined and thereafter concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (n-hexane:ethyl acetate=11:1→1:1). The purified product was concentrated under reduced pressure and the residue was dissolved in ethyl acetate. A 1N hydrochloric acid/ethanol solution was added to this and the crystal produced was filtrated and dried to obtain 1-acetyl-4-{4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3-methoxy-5-methylphenyl}-piperazin hydrochloride (75 mg, 14% yield) as white powder.

reactant | 1-benzo[b]thiophen-4-yl-4-[3-(4-bromo-2-methoxy-6-methylphenoxy)propyl]piperazine hydrochloride | 0.98 mmol, 0.5 g | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=C(C=C(C=C2C)Br)OC
reactant | 1-acetyl piperazine | 1.2 mmol, 0.15 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphtyl | 0.098 mmol, 63 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium t-butoxide | 2.3 mmol, 0.23 g | CC(C)([O-])C.[Na+]
catalyst | palladium acetate | 0.048 mmol, 11 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-acetyl-4-{4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3-methoxy-5-methylphenyl}-piperazin hydrochloride | 75 mg, 14% yield | Cl.C(C)(=O)N1CCN(CC1)C1=CC(=C(C(=C1)C)OCCCN1CCN(CC1)C1=CC=CC=2SC=CC21)OC | InChI=1S/C29H38N4O3S.ClH/c1-22-20-24(32-16-14-31(15-17-32)23(2)34)21-27(35-3)29(22)36-18-5-9-30-10-12-33(13-11-30)26-6-4-7-28-25(26)8-19-37-28;/h4,6-8,19-21H,5,9-18H2,1-3H3;1H
